US04382090
Aout 0.6 g. of N-methyl-N'-2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl-N"-cyanoguanidine were dissolved in 8 ml. of 1.5 N aqueous hydrochloric acid. The resulting solution was allowed to remain at ambient temperature for about four days. Volatile constituents were then removed by evaporation in vacuo. The resulting residue, comprising N-methyl-N'-2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl-N"-aminocarbonylguanidine dihydrochloride formed in the above reaction, was dissolved in ethanol and the ethanol removed by evaporation. The residue obtained thereby was recrystallized from isopropanol. The crystalline product was collected and digested with ethyl acetate. The ethyl acetate was removed by evaporation and the product obtained was crystallized from isopropanol to yield N-methyl-N'-2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl-N"-aminocarbonylguanidine dihydrochloride melting at 156.5°-159.5° C.

reactant | N-methyl-N'-2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl-N"-cyanoguanidine | CNC(=NC#N)NCCSCC=1N=C(SC1)CN(C)C | C12H20N6S2
reactant | hydrochloric acid | 1.5 N | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
product | N-methyl-N'-2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl-N"-aminocarbonylguanidine dihydrochloride | Cl.Cl.CNC(=NC(=O)N)NCCSCC=1N=C(SC1)CN(C)C | InChI=1S/C12H22N6OS2.2ClH/c1-14-12(17-11(13)19)15-4-5-20-7-9-8-21-10(16-9)6-18(2)3;;/h8H,4-7H2,1-3H3,(H4,13,14,15,17,19);2*1H
